US07253165B2
Synthesis of (2,4-difluoro-phenyl)-(3-methoxy-phenyl)-methanone oxime (Scheme I, Compound 9)
Combine (2,4-difluoro-phenyl)-(3-methoxy-phenyl)-methanone (51.2 g, 0.206 mol) and pyridine (293.4 g, 300 mL). Add hydroxylamine hydrochloride (21.7 g, 0.312 mol) and heat to 100° C., under a nitrogen atmosphere, for 4 hours. TLC (20% ethyl acetate in heptane) shows that the reaction is complete. Concentrate the reaction mixture and dry (vacuum at 50° C.). Distribute the material between ethyl acetate and water. Wash the organic layer with 10% HCl, saturated sodium chloride, dry (MgSO4) and concentrated to obtain the title compound as a white solid (53.66 g, 99% Yield). Use compound in a crude form or recrystallize from heptane and dry (P2O5). NMR and MS are consistent with the final, desired compound, which is a mixture of the Z-isomer (81%) and the E-isomer (19%). mp=122° C.-127° C.

reactant | (2,4-difluoro-phenyl)-(3-methoxy-phenyl)-methanone | 0.206 mol, 51.2 g | FC1=C(C=CC(=C1)F)C(=O)C1=CC(=CC=C1)OC | C14H10F2O2
reactant | pyridine | 300 mL, 293.4 g | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.312 mol, 21.7 g | Cl.NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | heptane | CCCCCCC | C7H16
product | (2,4-difluoro-phenyl)-(3-methoxy-phenyl)-methanone oxime | 53.66 g, 99% Yield | FC1=C(C=CC(=C1)F)C(=NO)C1=CC(=CC=C1)OC | C14H11F2NO2
